US04351843
1-Ethyl-5-benzoylpyrrole-3-carboxylic Acid
The entire batch of ethyl 1-ethyl-5-benzoylpyrrole-3-carboxylate from the preceding Example was taken up in 40 ml. of methanol and 20 ml. of 1 N sodium hydroxide, and heated in an open flask on a steam bath for 1 hour. The aqueous residue was cooled, extracted with 20 ml. of ether, and made acidic with conc. hydrochloric acid. 1-Ethyl-5-benzoylpyrrole-3-carboxylic acid (585 mg., m.p. 157°-158° C., m/e 243) was recovered by filtration. For analysis, the product was recrystallized from acetone/hexane (380 mg., m.p. 158°-160° C.).

reactant | ethyl 1-ethyl-5-benzoylpyrrole-3-carboxylate | C(C)N1C=C(C=C1C(C1=CC=CC=C1)=O)C(=O)OCC | C16H17NO3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 1-Ethyl-5-benzoylpyrrole-3-carboxylic Acid | C(C)N1C=C(C=C1C(C1=CC=CC=C1)=O)C(=O)O | C14H13NO3
